US07582640B2
Synthesis of (1,1-dimethylethyl)3-[[5-isobutyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate
A mixture of 450 mg (1.17 mmoles) of 4-chloro-5-isobutyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-pyrimidine, 413 mg (1.4 mmoles) of (1,1-dimethylethyl)3-amino-N-[(phenylmethoxy)carbonyl]alaninate (prepared according to J. Med. Chem.(2001), 44(8), 1158-1176), 275 mg (1.81 mmoles) of caesium fluoride, 55 mg (0.060 mmole) of tris(dibenzylideneacetone)dipalladium(0), 75 mg (0.12 mmole) of 2,2′-bis(diphenyl-phosphino)-1,1′-binaphthyl in 35 ml of dioxane is heated under reflux for 20 hours. The reaction mixture is evaporated to dryness under reduced pressure (2 kPa) and the residue is taken up in ethyl acetate, water and a saturated solution of sodium bicarbonate. The organic phase is separated, dried over magnesium sulphate and the solvent is evaporated off under reduced pressure (2 kPa). The residue is chromatographed on alumina eluting with a gradient of methylene chloride-diisopropyl ether- ethyl acetate-methanol from 50-50-0-0 to 0-50-50-0 then 0-0-100-0 and finally 0-0-90-10. 630 mg (Yield=83%) of expected product is obtained in the form of an amorphous yellow solid.

reactant | 4-chloro-5-isobutyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-pyrimidine | 1.17 mmoles, 450 mg | ClC1=NC=NC(=C1CC(C)C)N1CCC(CC1)C1=CC=C2CCCNC2=N1 | C21H28ClN5
reactant | (1,1-dimethylethyl)3-amino-N-[(phenylmethoxy)carbonyl]alaninate | 1.4 mmoles, 413 mg | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CN)=O | C15H22N2O4
reactant | caesium fluoride | 1.81 mmoles, 275 mg | [F-].[Cs+]
reactant | 2,2′-bis(diphenyl-phosphino)-1,1′-binaphthyl | 0.12 mmole, 75 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.060 mmole, 55 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1,1-dimethylethyl)3-[[5-isobutyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate | 630 mg, Yield=83% | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CNC1=NC=NC(=C1CC(C)C)N1CCC(CC1)C1=CC=C2CCCNC2=N1)=O | C36H49N7O4
